US06278013B1
8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(5-methyl-2-oxo-1,3-dioxol-4-yl)methyl-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
100 mg (0.25 mmol) of 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 59 mg (0.30 mmol) of 4-bromomethyl-5-methyl-1,3-dioxol-2-one and 30 mg of potassium bicarbonate are heated at 140° C. in 2 ml of dimethylformamide for 30 minutes. The reaction solution is concentrated in vacuo, the residue is taken up in methylene chloride and the mixture is washed with water. The organic phase is dried over magnesium sulfate and concentrated in vacuo. The resulting residue is stirred with water, filtered off with suction and dried.

reactant | 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.25 mmol, 100 mg | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C21H21FN4O3
reactant | 4-bromomethyl-5-methyl-1,3-dioxol-2-one | 0.30 mmol, 59 mg | BrCC=1OC(OC1C)=O | C5H5BrO3
reactant | potassium bicarbonate | 30 mg | C([O-])(O)=O.[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(5-methyl-2-oxo-1,3-dioxol-4-yl)methyl-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN([C@@H]2C1)CC=1OC(OC1C)=O | C26H25FN4O6
